US08133995B2
Step 8: Preparation of 1-[4-amino-5-bromo-7-(morpholin-4-ylmethyl)-pyrrolo[2,1-f][1,2,4]triazin-6-yl]ethanone
To a solution of THF (100 mL) was added ethyl 1-[4-amino-5-bromo-7-(morpholin-4-ylmethyl)pyrrolo[2,1-f][1,2,4]triazin-6-yl]ethanol (419 mg, 1.18 mmol) followed by Dess-Martin periodinane (748 mg, 1.76 mmol). The solution was stirred at rt for 1 h and then quenched by addition of aqueous saturated sodium thiosulfate and NaHCO3 (100 mL) followed by EtOAc (100 mL) to the reaction. The solution was stirred for 30 min at rt and then transferred to a separatory funnel. The organic layer was isolated while the aqueous layers were back extracted with EtOAc (2×50 mL). The combined organic layers were collected, dried (MgSO4), filtered, and concentrated to dryness. The crude material was then triturated with THF-Et2O. The solid was collected, washed with Et2O (150 mL), and dried under vacuum. The mother liquor was concentrated and purified by MPLC (Isco) 100% CH2Cl2 to 9:1 v/v CH2Cl2-MeOH. The resulting purified fractions were combined with the solid and concentrated in vacuo yielding 344 mg of the above compound (0.97 mmol, yield 83%). 1H-NMR (DMSO-d6) δ 8.35 (br s, 1H), 7.94 (s, 1H), 7.13 (br s, 1H), 4.02 (s, 2H), 3.47 (m, 4H), 2.64 (s, 3H), 2.35 (m, 4H); MS [M+H]+=354.0; LCMS RT=1.11 min.

reactant | ethyl 1-[4-amino-5-bromo-7-(morpholin-4-ylmethyl)pyrrolo[2,1-f][1,2,4]triazin-6-yl]ethanol | 1.18 mmol, 419 mg | C(C)C(C)(O)C=1C(=C2C(=NC=NN2C1CN1CCOCC1)N)Br | C15H22BrN5O2
reactant | Dess-Martin periodinane | 1.76 mmol, 748 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-[4-amino-5-bromo-7-(morpholin-4-ylmethyl)-pyrrolo[2,1-f][1,2,4]triazin-6-yl]ethanone | 0.97 mmol, 344 mg, yield 83% | NC1=NC=NN2C1=C(C(=C2CN2CCOCC2)C(C)=O)Br | C13H16BrN5O2
